datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COc1c(CN)cc(C)cc1C[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1c(CN)cc(C)cc1C[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCc1cc2c(cc1[O:21][H:20])OC(=O)C=C2C.O=S(=O)([O-])CC[N:10]1CCOCC1>>CCc1cc2c(cc1[O-:21])OC(=O)C=C2C.O=S(=O)([O-])CC[N+:10]1([H:20])CCOCC1 10=20;20,21=21",
"CC(C)(C)[NH2+]CC(=O)c1ccc([O:21][H:20])cc1.CC1CNCC[NH:10]1>>CC(C)(C)[NH2+]CC(=O)c1ccc([O-:21])cc1.CC1CNCC[NH+:10]1[H:20] 10=20;20,21=21",
"[NH3+]C(Cc1nc[n:21]([H:20])n1)C(=O)[O-].[NH3+][C@H]1CCCC[C@@H]1C(=O)[O-:10]>>[NH3+]C(Cc1nc[n-:21]n1)C(=O)[O-].[NH3+][C@H]1CCCC[C@@H]1C(=O)[O:10][H:20] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.[O-]c1ccc([O-:10])cc1Br>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.[O-]c1ccc([O:10][H:20])cc1Br 10=20;20,21=21",
"CCCOC(=O)c1ccc([O:21][H:20])cc1.CCN(CC)c1ccc(C(O)(c2ccccc2)c2ccc([N:10](CC)CC)cc2)cc1>>CCCOC(=O)c1ccc([O-:21])cc1.CCN(CC)c1ccc(C(O)(c2ccccc2)c2ccc([N+:10](CC)(CC)[H:20])cc2)cc1 10=20;20,21=21",
"CC[NH2+]CCC(=O)[O-:10].CN(C)/C(c1ccccc1)=[S+:21]\[H:20]>>CC[NH2+]CCC(=O)[O:10][H:20].CN(C)C(c1ccccc1)=[S:21] 10=20;20,21=21",
"Cc1ccc2c(c1)c1c3n2CC[N:10]=C3CCC1.c1ccc2c(OCCCC[NH2+:21][H:20])c3ccccc3cc2c1>>Cc1ccc2c(c1)c1c3n2CC[N+:10]([H:20])=C3CCC1.c1ccc2c(OCCCC[NH2:21])c3ccccc3cc2c1 10=20;20,21=21",
"N#CC(CCCC(=O)[O:21][H:20])c1ccccc1.O=S(=O)(c1ccccc1)[N-:10]c1ccc(Cl)cc1>>N#CC(CCCC(=O)[O-:21])c1ccccc1.O=S(=O)(c1ccccc1)[N:10](c1ccc(Cl)cc1)[H:20] 10=20;20,21=21",
"Nc1ccc([N-:10]S(=O)(=O)c2ccccc2)cc1.O=C([O-])[C@@H](O)[C@@H](C(=O)[O-])[NH2+:21][H:20]>>Nc1ccc([N:10](S(=O)(=O)c2ccccc2)[H:20])cc1.O=C([O-])[C@@H](O)[C@@H](C(=O)[O-])[NH2:21] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].[NH3+][C@H]1C[C@@H]2CCCC[C@H]2C[C@@H]1[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[NH3+][C@H]1C[C@@H]2CCCC[C@H]2C[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"Cc1ccc(O)c2c1ccc[n:10]2.Cn1n[n+](C)nc1[NH:21][H:20]>>Cc1ccc(O)c2c1ccc[n+:10]2[H:20].Cn1n[n+](C)nc1[NH-:21] 10=20;20,21=21",
"O=S(=O)([O-])c1cc([O-:10])cc2[nH]ncc12.c1[nH]c(Cc2c[nH]c(Cc3[nH]cc(Cc4c[nH]c[n+:21]4[H:20])[nH+]3)n2)c[nH+]1>>O=S(=O)([O-])c1cc([O:10][H:20])cc2[nH]ncc12.c1[nH]c(Cc2c[nH]c(Cc3[nH]cc(Cc4c[nH]c[n:21]4)[nH+]3)n2)c[nH+]1 10=20;20,21=21",
"CCN(CC)c1nc[n:10]c2[nH]ncc12.CN(C)c1ccc(C(O)(c2ccccc2)c2ccc([N+:21](C)(C)[H:20])cc2)cc1>>CCN(CC)c1nc[n+:10]([H:20])c2[nH]ncc12.CN(C)c1ccc(C(O)(c2ccccc2)c2ccc([N:21](C)C)cc2)cc1 10=20;20,21=21",
"CCN[N+:21](CC)(CC)[H:20].Cc1cccc(C)c1NC(=O)C[NH:10]CC(C)C>>CCN[N:21](CC)CC.Cc1cccc(C)c1NC(=O)C[NH+:10](CC(C)C)[H:20] 10=20;20,21=21",
"CCOc1ccc2c(c1)c(N)cc(/C=C/c1ccccc1)[n:10]2.COC(=O)c1ccc[n+:21]([H:20])c1>>CCOc1ccc2c(c1)c(N)cc(/C=C/c1ccccc1)[n+:10]2[H:20].COC(=O)c1ccc[n:21]c1 10=20;20,21=21",
"CC1=CC([C:21](C)([N+](=O)[O-])[H:20])=CC=C1.OCC[O-:10]>>CC1=CC([C-:21](C)[N+](=O)[O-])=CC=C1.OCC[O:10][H:20] 10=20;20,21=21",
"Cc1cc(-c2ccccc2)n[n+](C)c1NCC[N+:21]1([H:20])CCOCC1.Cc1cccc(C)c1N[N:10]=C(C#N)C#N>>Cc1cc(-c2ccccc2)n[n+](C)c1NCC[N:21]1CCOCC1.Cc1cccc(C)c1N[N+:10](=C(C#N)C#N)[H:20] 10=20;20,21=21",
"C[n+]1ccc(N)[n:10]c1[O-].Oc1c([NH2+:21][H:20])ccc2c1Cc1ccccc1-2>>C[n+]1ccc(N)[n+:10]([H:20])c1[O-].Oc1c([NH2:21])ccc2c1Cc1ccccc1-2 10=20;20,21=21",
"C[C@H](CCC(=O)[O:21][H:20])[C@H]1CC[C@H]2[C@@H]3[C@@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C.S=C(Nc1ccccc1)[N-:10]C(=S)c1ccccc1>>C[C@H](CCC(=O)[O-:21])[C@H]1CC[C@H]2[C@@H]3[C@@H](O)C[C@@H]4C[C@H](O)CC[C@]4(C)[C@H]3CC[C@]12C.S=C(Nc1ccccc1)[N:10](C(=S)c1ccccc1)[H:20] 10=20;20,21=21",
"Cc1ccc([O-:10])c(C(C)C)c1.Nc1n(Cc2ccccc2)nn[n+:21]1[H:20]>>Cc1ccc([O:10][H:20])c(C(C)C)c1.Nc1n(Cc2ccccc2)nn[n:21]1 10=20;20,21=21",
"CC(=O)c1cc(C)c(C)cc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(=O)c1cc(C)c(C)cc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C=CC[N+:21](CC=C)(CC=C)[H:20].O=[PH](C([NH2+]Cc1ccc[nH+]c1)c1ccccc1O)[O-:10]>>C=CC[N:21](CC=C)CC=C.O=[PH](C([NH2+]Cc1ccc[nH+]c1)c1ccccc1O)[O:10][H:20] 10=20;20,21=21",
"CN([NH3+])/C(N)=[S+:21]\[H:20].O=C(CC[N:10]1CCOCC1)C(c1ccccc1)c1ccccc1>>CN([NH3+])C(N)=[S:21].O=C(CC[N+:10]1([H:20])CCOCC1)C(c1ccccc1)c1ccccc1 10=20;20,21=21",
"O=C(c1cccc[n+]1[O-])[O-:10].O=C(c1cnc(Br)s1)[O:21][H:20]>>O=C(c1cccc[n+]1[O-])[O:10][H:20].O=C(c1cnc(Br)s1)[O-:21] 10=20;20,21=21",
"Nc1nc[n+:21]([H:20])c([O-])c1N.Oc1c[n:10]cc2ccccc12>>Nc1nc[n:21]c([O-])c1N.Oc1c[n+:10]([H:20])cc2ccccc12 10=20;20,21=21",
"Cc1c(O)cccc1C(=O)[O:21][H:20].c1ccc(-c2cc([O-:10])[nH]n2)cc1>>Cc1c(O)cccc1C(=O)[O-:21].c1ccc(-c2cc([O:10][H:20])[nH]n2)cc1 10=20;20,21=21",
"C[NH+](C)Cc1cc(-c2ccccc2)cc(C[NH+](C)C)c1[O-:10].O=C(/C=C/c1ccco1)[O:21][H:20]>>C[NH+](C)Cc1cc(-c2ccccc2)cc(C[NH+](C)C)c1[O:10][H:20].O=C(/C=C/c1ccco1)[O-:21] 10=20;20,21=21",
"C[Se]CC[NH2:10].[O-]c1c(Cl)cc(Cl)c(Cl)c1C[N+:21]1([H:20])CCCCC1>>C[Se]CC[NH2+:10][H:20].[O-]c1c(Cl)cc(Cl)c(Cl)c1C[N:21]1CCCCC1 10=20;20,21=21",
